*$
* LM3478
*****************************************************************************
* (C) Copyright 2017, 2016 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM3478
* Date: 01APR2019
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: LM3478/88
* EVM User's Guide: SNVA656A-June 2012-Revised October 2013
* Datasheet: SNVS085W-JULY 2000-REVISED DECEMBER 2014
*
* Model Version: Final 1.20
*
*****************************************************************************
*
* Updates:
* Final 1.20
* Release to Web.
* Added hysteresis in shutdown comparator
* Final 1.10
* Release to Web
* <Made below change to the model>
*  Included steady state parameter SS in the .LIB and Symbol.
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
*
* A. Features have been modelled
*	1. Short circuit Protection
*	2. 100kHz to 1MHz Adjustable Frequency with Shutdown
*	3. Internal Push-Pull Driver With 1A Peak Current Capability
*	4. Device enable & disable by EN input
*	5. Internal Soft-Start of 4ms
*	6. VIN UVLO protection
*	7. Output Over-voltage protection
*
* B. Features haven't been modelled
*	1. Input Current vs Input Voltage
*	2. Temperature dependent characteristics
*   3. Ground pin is tied to 0V internally hence this model cannot be used in inverting topology
*
*****************************************************************************
.SUBCKT LM3478_TRANS AGND COMP DR FA_SD FB ISEN PGND VIN PARAMS: SS=0
R_Rin2g         VIN PGND  1G TC=0,0
R_R_OC         OCDLY OC  216.45 TC=0,0
R_ROC2toG         OC1 AGND  10G TC=0,0
R_R_LDO         VIN V7P2  1MEG TC=0,0
C_Css         SS AGND  1uF IC=0 TC=0,0
R_Ruv         N16930285 N16931482  1 TC=0,0
E_ABM6         REF 0 VALUE { IF( V(SS) > 1.26, 1.26, V(SS))    }
X_U6         N16908277 N16875644 N16909753 RESET AND3_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
C_Cuv         N16930285 AGND  1n  TC=0,0
E_Edriver         N16855996 DR VALUE { IF(V(PWM_CLK) > 0.5, 3, -3) }
G_Iss         N16850239 SS VALUE { IF(V(OSCSHUT) < 1 & V(UVLO) > 2 &
+  V(OC2)<0.4, 1uF*(1.26-V(SS))/({Tstart}/2.7), (V(AGND)-V(SS))/1k)    }
R_R1         N16981880 N16982093  1k TC=0,0
R_Rss2g         SS AGND  1G TC=0,0
M_M2         PGND DRVRSIG DR DR MPDRVR
E_E_OC2         OC1 AGND VALUE { IF (V(OC) > 0.5, IF(V(OCDLY) > 0.5, 1 , 0), 0)
+  }
X_U1 PWM_CLK N16855935 SET PWM
M_M1         VCC DRVRSIG DR DR MNDRVR
V_Iss_tst         AGND N16850239
+PULSE 0 0 0 0 0
C_C_OC         OCDLY AGND  1n  TC=0,0
E_E_bias         VCC PGND V7P2 PGND 1
E_GAIN4         UVLO 0 VALUE {2.5 * V(N16930285)}
V_V3         N16943348 N16943331 -418m
D_D_LDO         PGND V7P2 DZ7P2
X_erramp         VGM_REF FB COMP lmerr_amp
E_ABM166         N16943331 0 VALUE { IF(V(FA_SD_30UHIGH)>0.5,0,2.8)    }
X_U9         COMP N16943348 d_d1
X_U7         VIN N16926804 N16927149 N16931482 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
V_V2         N16927149 AGND 170m
G_ABMII1         AGND ISEN VALUE { (V(RAMP) - 0.1)*38.5e-6    }
R_R_sen2G         ISEN AGND  1G TC=0,0
R_R_FBspike         FB_NOSPIKE FBVAL  100 TC=0,0
X_U138         RESET N16983200 N16855935 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U137         OC OC2 N16907101 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_OVgen         OV AGND VALUE { IF(V(FB_NOSPIKE, AGND) + 60mV*V(OV) >
+  V(VGM_REF)+50mV, 1, 0) }
E_ABM167         N16981880 0 VALUE { IF(V(FA_SD)>1.35,1,0)    }
E_GAIN3         FBVAL 0 VALUE {1.0 * V(FB)}
X_U2 CLK FA FA_SD_30UHIGH RAMP OSCSHUT OC UVLO OSCR
E_E_OC         OC AGND VALUE { IF (V(COMP_POS) > 156m - 0.01*V(OC), 1, 0)  }
E_ABM164         COMP_NEG 0 VALUE { 1.08*V(COMP) -1.48 - 0.0646*(V(RAMP) - 0.1)
+     }
C_C_FBspike         FB_NOSPIKE AGND  1n  TC=0,0
X_U10         N16945907 CLK OC2 N16988765 srlatchrhp_basic_gen PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
E_E_OC3         N16945907 AGND VALUE { if (v(COMP_POS) > .343 - 0.01*v(OC2), 1,
+  0)  }
R_Rdriver         N16855996 DRVRSIG  1 TC=0,0
E_ABM165         N16875644 0 VALUE { IF( V(COMP_POS) > V(COMP_NEG), 0 ,1)    }
C_Cdriver         DRVRSIG DR  1nF  TC=0,0
C_C1         N16982093 AGND  1n  TC=0,0
X_U4         N16982093 N16983200 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_V1         N16926804 AGND 2.85
E_GAIN2         COMP_POS 0 VALUE {1 * V(ISEN)}
X_U5         OV N16909753 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
R_Rov2g         OV AGND  1G TC=0,0
V_IFA         FA FA_SD
+PULSE 0 0 0 0 0
E_ABM7         VGM_REF 0 VALUE { IF({SS} < 0.5, V(REF), 1.26)    }
X_U3         N16907101 N16908277 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_ABM4         SET 0 VALUE { IF ((V(CLK) > 1) & (V(OSCSHUT) < 0.5) & (V(OV) <
+  0.5),1, 0)    }
.PARAM  tstart=4m
.ENDS LM3478_TRANS
*$
.SUBCKT OSCR CLK FA FA_SD_30uhigh RAMP SHUT SLOW Vs
E_rampgen         RAMP 0 VALUE { 0.1+(1.3-V(12))*(V(SAWTOOTH)-0.1)/0.8    }
E_SLOWtst2         CLK 0 VALUE { IF(V(N16832334) > 0.5, 2.8, 0.2)    }
C_Crmp         SAWTOOTH 0P1V  69.44pF IC=0 TC=0,0
V_IFA         FAINT FA
+PULSE 0 0 0 0 0
E_shutgen         SHUT 0 VALUE { IF (V(13)>1, 2, 0)    }
E_E12gen         12 0 VALUE { V(3)*(1-V(5))    }
E_VFAgen         FA_GEN 0 VALUE { IF (V(VS) > 1.5, V(VS) - 1.5, 0)    }
X_U2         N16789125 FA_SD_30UHIGH BUF_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U9         N16789125 FA_SD_INT d_d1
C_Cshut         13 0  1nF  TC=0,0
R_RFA_int         FA_GEN FAINT  1k TC=0,0
X_U789         FA N16841879 N16841909 FA_SD_INT COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
R_R12toG         12 0  10G TC=0,0
R_Rslow         SLOW 0  1G TC=0,0
V_V1         N16841879 0 1.27
E_SLOWtst         N16819994 0 VALUE { IF(V(FABY5) > 0.5, V(FSW)/5, V(FSW))    }
C_Cfa         N16789125 0  1n IC=0 TC=0,0
R_Rfa         FA_SD_INT N16789125  43.29k TC=0,0
E_pulsgen         N16828837 0 VALUE { IF(V(VCO_SQ) > 1u, 1, 0)    }
X_U5         13 5 d_d1
V_V2         N16841909 0 0.62
E_VCO_SIN         VCO_SQ 0 VALUE { SIN(2*3.142*V(N16819994)*TIME)    }
G_ABMII2         0P1V SAWTOOTH VALUE { IF(V(CLK) < 1  & V(FSW) > 1u,
+  I(V_IFA)/(V(FA)+2210*I(V_IFA)), (V(0P1V)-V(SAWTOOTH))/100)    }
E_ABM6         FSW 0 VALUE { IF(V(FA_SD_INT) > 0.5, 0,
+  ((4.503E11*I(V_IFA))/(1-1k*I(V_IFA)))**0.79365 )    }
C_Cshut_dly         5 0  150nF  TC=0,0
R_Rsaw2G         SAWTOOTH 0  10G TC=0,0
X_U10         SLOW CLK FABY5 N16834021 srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
R_Rrmp2G         RAMP 0  10G TC=0,0
R_Rshut_dly         3 5  1 TC=0,0
V_p1V         0P1V 0
+PULSE 0 0.1 0 0 0
R_Rshut         VS 13  100k TC=0,0
X_U788         N16828837 N16832334 rising_oneshot PARAMS:  PULSE=155n VDD=1
+  VSS=0 VTHRESH=0.5
E_Eshut_dly         3 0 VALUE { IF(I(V_IFA) > 100u/65, 0, 1)    }
R_Rshut2g         SHUT 0  10G TC=0,0
.ENDS OSCR
*$
.SUBCKT PWM PWM_CLK RESET SET
V_V2         N167973070 0 1
X_U138         TONMIN N16795506 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_ABM55         TONMIN 0 VALUE { IF(V(TON325N)>1,1,0)    }
G_ABMII5         0 TON325N VALUE { IF(V(PWM_CLK) > 0.5, 12.6u,0)    }
R_R5         0 TONMIN  1Meg TC=0,0
X_U139         TON325N N167973070 d_d
X_U17         PWM_CLK N16793497 SET N16793493 N16793552 N16793493
+  dffsbrb_rhpbasic_gen PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
V_V1         N16793493 0 1
X_U137         RESET N16795506 N16793552 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_C1         TON325N 0  4p IC=0 TC=0,0
X_U1_S14    PWM_CLK 0 TON325N 0 PWM_U1_S14
.ENDS PWM
*$
.subckt PWM_U1_S14 1 2 3 4
S_S14         3 4 1 2 _S14
RS_S14         1 2 1G
.MODEL         _S14 VSWITCH Roff=1e9 Ron=1 Voff=0.75 Von=0.25
.ends PWM_U1_S14
*$
.SUBCKT LMERR_AMP PLUS MINUS OUT
R1 PLUS 0 1G
R2 MINUS 0 1G
R3 4 0 1G
D1 11 OUT _LMERR
.MODEL _LMERR D BV=1
V2 11 0 DC = 1.3
GB7 0 OUT VALUE {25E-6*V(9)}
EB9 3 0 VALUE {V(1)}
GB3 0 4 VALUE {1000*(V(PLUS,MINUS)-V(2))}
R5 3 9 1K
R7 0 2 10K
R8 2 1 300K
C4 4 0 10U
EB4 5 0 VALUE {V(4)}
R9 5 1 1
C5 1 0 .02U
D2 9 10 _D2_MOD
.MODEL _D2_MOD D BV=9
R10 OUT 0 48K
V5 10 0 DC = 5
.ENDS LMERR_AMP
*$
.MODEL DZ7P2 D  (IS=10F BV=7.2 IBV=10uA rs=0 n=1.00000 vj=1.00000 m=0.5)
*$
.model MPdrvr	PMOS (KP=2 RD=1 VTO=-2)
*$
.model MNdrvr	NMOS (KP=2 RD=1 VTO=2)
*$
.MODEL DMBRS340T3 d
+IS=0.000182183 RS=0.0312608 N=1.40283 EG=0.576586
+XTI=0.000499955 BV=1000 IBV=0.0001 CJO=4.92728e-10
+VJ=0.573693 M=0.464284 FC=0.5 TT=1e-09
+KF=0 AF=1
*$
.SUBCKT  FDS6690A  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={2*{-0.00384*TEMP+1.096}}  KP={-0.05*TEMP+58}
+  THETA=0.096 VMAX=4E5  LEVEL=3)
Cgs     1    3    1500p
Rd     20    4    3m TC=0.00376
Dds     3    4    DDS
.MODEL     DDS    D(BV={30*{0.00088*TEMP+0.978}}   M=0.3  CJO=800p   VJ=0.8)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)
Ra      4    2    3m TC=0.00376
Rs      3    5    0.5m
Ls      5    30   0.5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    1050p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=1050p   VJ=0.4)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FDS6690A
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5
EIN INP1 INM1 INP INM 1
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT DFFSBRB_RHPBASIC_GEN Q QB CLK D RB SB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X1 CLK CLKdel INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
GQ 0 Qint VALUE = {IF(V(RB) < {VTHRESH},-5,IF(V(SB)< {VTHRESH},5, IF(V(CLKint)> {VTHRESH},
+ IF(V(D)> {VTHRESH},5,-5),0)))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 5
D_D11 0 Qint D_D1
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr Qb 1
Cdummy1 Q 0 1nF
Cdummy2 QB 0 1nF
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
.IC V(Qint) {VSS}
.ENDS DFFSBRB_RHPBASIC_GEN
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd D (Is = 1e-14 Rs = 0.1 N = 0.1 TT = 10p)
.ends d_d
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT D_D1 1 2
D1 1 2 DD1
.MODEL DD1 D ( IS=1e-15 TT=10p Rs=0.05 N=.1 )
.ENDS D_D1
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
.ENDS CESR
*$
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 IC=0
L	IN 1  {L} IC={IC}
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1
Cdummy1 Q 0 1n
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.MODEL D_D1 D ( IS=1e-15 TT=10p Rs=0.05 N=.1 )
.ENDS SRLATCHRHP_BASIC_GEN
*$
.SUBCKT RISING_ONESHOT IN OUT PARAMS: PULSE=100n VDD=1 VSS=0 VTHRESH=0.5
D_D1         INT IN DD
C_C1         0 INT  1n
X_U22         INT IN_B_DELAYED INV_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS}
+  VTHRESH={VTHRESH}
R_R1         IN INT  {PULSE/(0.693 * 1E-9)}
X_U1         IN IN_B_DELAYED OUT AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS}
+  VTHRESH={VTHRESH}
.MODEL DD D( IS=1F N=0.01 TT = 10p )
.ENDS RISING_ONESHOT
*$
